US04306097
3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-methylcyclohexanone
To a -10° C. to -5° C. solution of 4.17 mmoles of dimethylcopper lithium in 10 ml. of tetrahydrofuran was slowly added 5.60 g. (1.39 mmoles) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-enone in 5 ml. of tetrahydrofuran. The reaction mixture was stirred for 30 minutes longer and was then added to 100 ml. of saturated ammonium chloride and 100 ml of ether. After stirring for 10 minutes the quenched reaction was extracted with 200 ml. of ether. The ether extract was washed with 100 ml. of saturated sodium chloride, dried over magnesium sulfate and evaporated to an oil. The oil was purified via preparative layer chromatography on three 20 cm.×20 cm.×2 mm. silica gel plates eluted with 2:1 cyclohexane:ether to yield 282 mg. (48%) (higher Rf) of the title compound, as an oil, and 211 mg. (36%) (lower Rf) of 3-[ 2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-1-methylcyclohex-2-en-1-ol, as an oil.

reactant | dimethylcopper lithium | 4.17 mmoles | [Li].C[Cu]C
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohex-2-enone | 1.39 mmoles | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1=CC(CCC1)=O | C28H36O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 100 ml | CCOCC | C4H10O
product | 3-[2-Benzyloxy-4-(1,1-dimethylheptyl)phenyl]-3-methylcyclohexanone | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1(CC(CCC1)=O)C | C29H40O2
